US07244735B2
1-[5-Chloro-2-(1-hydroxymethyl-propylamino)-pyrimidin-4-yl]-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide (I-1):
1-(2,5-Dichloro-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide (20 mg, 0.05 mmol) was dissolved in absolute ethanol (1 mL) then (S)-2-amino-butanol (0.1 mL) was added. The mixture was heated in a sealed Teflon reaction vial at 80° C. overnight. The resulting mixture was purified by preparative TLC (1 mm silica; eluent ethyl acetate) to afford the title compound as a colorless oil (4 mg). LC/MS Rt=4.42 minutes; 483.0 (M+1); 1H NMR δ 7.88 (s, 1H) 7.26 (m, 4H) 5.21 (NH) 4.97 (m, 1H) 3.91 (dd, J=11.2, 3.8, 1H) 3.86 (dd, J=11.2, 5.8, 1H) 3.7 (m, 1H) 3.66 (m, 5H) 3.62 (m, 1H) 3.54 (m, 4H) 1.65 (m, 1H) 1.54 (m, 1H) 1.26 (OH) 0.99 (t, J=7.5, 3H).

reactant | 1-(2,5-Dichloro-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide | 0.05 mmol, 20 mg | ClC=1C=C(C=CC1)C(CO)NC(=O)C1CCN(CC1)C1=NC(=NC=C1Cl)Cl | C18H19Cl3N4O2
reactant | (S)-2-amino-butanol | 0.1 mL | N[C@H](CO)CC | C4H11NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-[5-Chloro-2-(1-hydroxymethyl-propylamino)-pyrimidin-4-yl]-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide | 4 mg | ClC=1C=C(C=CC1)C(CO)NC(=O)C1CCN(CC1)C1=NC(=NC=C1Cl)NC(CC)CO | C22H29Cl2N5O3
